US05045229
4-Difluoroacetyl-4'-(trans-4-propylcyclohexyl)biphenyl
The preparation is carried out analogously to Example 4 from 0.5 mol of 4-(trans-4-propylcyclohexyl)biphenyl and 0.5 mol of difluoroacetyl chloride.

reactant | 4-(trans-4-propylcyclohexyl)biphenyl | 0.5 mol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C21H26
reactant | difluoroacetyl chloride | 0.5 mol | FC(C(=O)Cl)F | C2HClF2O
product | 4-Difluoroacetyl-4'-(trans-4-propylcyclohexyl)biphenyl | FC(C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC)F | C23H26F2O
